US04086423
Step 2. N-(2,2,2-Trichloroethyloxycarbonyl)-glycyl chloride
N-(2,2,2-Trichloroethyloxycarbonyl)-glycine (0.75 g, 3 mMol) is suspended in CH2Cl2 (30 ml) and the mixture is stirred under N2 with ice-bath cooling. Oxalyl chloride (0.28 ml, 3.3 mMol) and DMF (0.023 ml, 0.3 mMol) are added thereto, and the mixture is stirred for 1 hour in the cold. The resulting solution is washed with ice-cold water and ice-cold brine, dried briefly over Na2SO4, and filtered. This solution of N-(2,2,2-trichloroethyloxycarbonyl)glycyl chloride is used immediately in the next step.

reactant | N-(2,2,2-Trichloroethyloxycarbonyl)-glycine | 3 mMol, 0.75 g | ClC(COC(=O)NCC(=O)O)(Cl)Cl | C5H6Cl3NO4
reactant | Oxalyl chloride | 3.3 mMol, 0.28 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.3 mMol, 0.023 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(2,2,2-Trichloroethyloxycarbonyl)-glycyl chloride | ClC(COC(=O)NCC(=O)Cl)(Cl)Cl | C5H5Cl4NO3
